US07273875B2
4-[8-(3-Fluorophenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid
Lithium hydroxide (1M (aq), 24.3 ml, 24.3 mmol) is added to a solution of 4-[8-(3-fluorophenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid ethyl ester (4.60 g, 12.14 mmol) in THF/methanol (40 ml:20 ml) and stirred at room temperature overnight. The organic solvents are removed by evaporation, then the aqueous residue diluted with water and basified to pH9 with 1M KOH. The aqueous layer is then washed with ethyl acetate (3×). The aqueous layer is acidified to pH 4 with 1M HCl to give a white precipitate, which is extracted into ethyl acetate. The ethyl acetate layer is then dried over sodium sulfate, filtered and concentrated to yield the desired product as a yellow foam. Further trituration with 1M HCl yields the product as a pale yellow powder (2.153 g). MS (AP+) 350.6

reactant | Lithium hydroxide | 24.3 mmol, 1M, 24.3 ml | [OH-].[Li+]
reactant | 4-[8-(3-fluorophenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid ethyl ester | 12.14 mmol, 4.60 g | C(C)OC(=O)C1CCC(CC1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)F | C23H23FN2O2
solvent | THF methanol | 40 ml | C1CCOC1.CO
product | 4-[8-(3-Fluorophenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid | FC=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)C1CCC(CC1)C(=O)O | C21H19FN2O2
